US07893055B2
Ethyl 1-(methylsulfonyl)-5-(methylsulfonyloxy)-2-(1-(2-(methylsulfonyloxy)ethoxy)cyclobutyl)-6-oxo-1,6-dihydropyrimidine-4-carboxylate:
A cold (0° C.) solution of 5-hydroxy-2-[1-(2-hydroxy-ethoxy)-cyclobutyl]-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (7.23 g, 25 mmol) in anhydrous tetrahydrofuran was treated with methanesulfonylchloride (Aldrich) by dropwise addition. The solution was warmed to room temperature and stirred for 4 hrs. The reaction was concentrated in-vacuo, and the crude product was dissolved in ethyl acetate (75 mL) and washed with saturated sodium bicarbonate solution. The organic solution was dried (sodium sulfate), filtered to remove solids, and concentrated in vacuo to give the title compound as a brown oil. 1H NMR (500 MHz, CDCl3) δ: 4.49 (2H, q, J=7.0 Hz), 4.35-4.38 (2H, m), 3.93-4.00 (1H, m), 3.66-3.67 (3H, s), 3.62-3.65 (2H, m), 3.44-3.46 (3H, s), 3.05-3.07 (3H, s), 2.74-2.82 (1H, m), 2.60-2.67 (2H, m), 2.41-2.49 (2H, m), 1.43 (3H, t, J=7.0 Hz). LCMS (M+H): 532.94.

reactant | 5-hydroxy-2-[1-(2-hydroxy-ethoxy)-cyclobutyl]-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 25 mmol, 7.23 g | C(C)OC(=O)C=1N=C(NC(C1O)=O)C1(CCC1)OCCO | C13H18N2O6
reactant | methanesulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 1-(methylsulfonyl)-5-(methylsulfonyloxy)-2-(1-(2-(methylsulfonyloxy)ethoxy)cyclobutyl)-6-oxo-1,6-dihydropyrimidine-4-carboxylate | CS(=O)(=O)N1C(=NC(=C(C1=O)OS(=O)(=O)C)C(=O)OCC)C1(CCC1)OCCOS(=O)(=O)C | C16H24N2O12S3
